US04959495
2-(Trimethylsilyl)ethoxymethyl 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate
A mixture of 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylic acid (3.30 g, 10 mmol.) and triethylamine (1.40 ml, 10 mmol.) in 50 ml of dimethylformamide was stirred at room temperature for 1 0 hour. Trimethylsilylethoxymethyl chloride (1.80 ml, 10 mmol.) was added dropwise, the reaction mixture was stirred for 15 minutes at room temperature then poured into 100 ml of water and extracted with 80 ml of ethyl acetate. The ethyl acetate extract was washed with 75 ml aliquots of saturated sodium bicarbonate, water and brine then dried over magnesium sulfate. Evaporation of the solvent afforded 3.05 g of product as an amber oil: NMR (CDCl3) δ 0.03 [S, 9H, Si(CH3)3 ], 0.95 (t, 2H, J=7.5 Hz, --CH2Si), 2.00 (S, 2H, NH2), 3.50 (m, 4H, --OCH2Si and indocyclic --CH 2 --S--), 4.00 (S, 2H, oxocyclic --CH2S--), 4.60 (d, 1H, J=5.0 Hz, 6H of 7ACA), 4.80 (d, 1H, J=5.0 Hz, 7H of 7ACA), 5.30 (S, 2H, --OCH2O--), 8.40 (S, 1H, thiadiazole H).

reactant | 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylic acid | 10 mmol, 3.30 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NS2)C(=O)O)C1=O | C10H10N4O3S3
reactant | triethylamine | 10 mmol, 1.40 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilylethoxymethyl chloride | 10 mmol, 1.80 ml | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(Trimethylsilyl)ethoxymethyl 7-amino-3-[(1,2,3-thiadiazol-5-yl)thiomethyl]ceph-3-em-4-carboxylate | 3.05 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NS2)C(=O)OCOCC[Si](C)(C)C)C1=O | C16H24N4O4S3Si
